* Testbench for control logic

.lib /Users/rahul/acads/research/sky130/pdk/skywater-pdk/libraries/sky130_fd_pr/latest/models/sky130.lib.spice tt

.param cload='2p'
.param vdd='1.8'
.param tr='1n'
.param tf='1n'

.subckt control_logic clk cs pc wl_en write_driver_en sense_en vdd vss
CL sense_en vss 10f
.ends

* TODO

Xmux vdd din3 din2 din1 din0 dout sel1 sel0 sel_b1 sel_b0 column_mux_4

Cout dout 0 {cload}

Vsel0 sel0 0 dc 0 PULSE(0 {vdd} 0 {tr} {tf} 0.8u 1.6u 0)
Vsel_b0 sel_b0 0 dc 0 PULSE({vdd} 0 0 {tr} {tf} 0.8u 1.6u 0)

Vsel1 sel1 0 dc 0 PULSE(0 {vdd} 0 {tr} tf 0.4u 0.8u 0)
Vsel_b1 sel_b1 0 dc 0 PULSE({vdd} 0 0 {tr} {tf} 0.4u 0.8u 0)

Vdd vdd 0 {vdd}

Vd0 din0 0 1.6
Vd1 din1 0 1.5
Vd2 din2 0 1.4
Vd3 din3 0 1.3

.control
tran 1n 1.6u 0u
wrdata column_mux_4.dat
+ v(din0)
+ v(din1)
+ v(din2)
+ v(din3)
+ v(sel0)
+ v(sel1)
+ v(sel_b0)
+ v(sel_b1)
+ v(dout)
unset askquit
quit 0
.endc

.end

